US06245799B1
(1-Benzhydryl-azetidin-3-yl)-(2-methoxy-phenyl)-amine
To a solution of 4.1 g (0.033 mol) of o-anisidine in 20 mL DMF, 4.6 g (0.033 mol) of K2CO3 was added, followed by 9.5 g (0.030 mol) of 1-(diphenylmethyl)-3-methane sulfonyl azetidine. The reaction was heated at 80° C. for 5 h. Water was added and the product was extracted with ether. The organic phase was dried and the solvent was removed under vacuo. The residue was filtered through silica gel, starting with 100% methylene chloride, then 25% ethyl acetate/hexane to give 1.5 g of the desired product: mp 75-77° C. 1H NMR (300 MHz, CDCl3) δ 2.89 (dd, 2H), 3.70 (dd, 2H), 3.84 (s, 3H), 4.13 (m, 1H), 4.40 (m, 1H), 4.38 (s,1H), 6.42 (dd,1H), 6.69 (dd, 1H), 6.79 (m, 2H), 7.20 (m, 2H), 7.26 (m, 4H), 7.42 (m, 4H); MS (ES) m/z (relative intensity): 345 (M++H).

reactant | o-anisidine | 0.033 mol, 4.1 g | COC=1C(=CC=CC1)N | C7H9NO
reactant | K2CO3 | 0.033 mol, 4.6 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-(diphenylmethyl)-3-methane sulfonyl azetidine | 0.030 mol, 9.5 g | C1(=CC=CC=C1)C(N1CC(C1)S(=O)(=O)C)C1=CC=CC=C1 | C17H19NO2S
reactant | Water | O | H2O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | (1-Benzhydryl-azetidin-3-yl)-(2-methoxy-phenyl)-amine | 1.5 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)NC1=C(C=CC=C1)OC | C23H24N2O
